*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.50e-02[uF]/25[V]
* Murata P/N :GRM155B11E153MA61
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B11E153MA61 Port1 Port2
C01 Port1 N01 1.49e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.67e-10
R03 N02 N03 5.71e-02
C04 N03 N04 1.61e-06
R04 N03 N04 2.48e+03
C05 N04 N05 2.58e-06
R05 N04 N05 1.79e+02
C06 N05 N06 2.08e-06
R06 N05 N06 2.59e+01
C07 N06 N07 1.81e-06
R07 N06 N07 2.98e+00
C08 N07 N08 1.56e-06
R08 N07 N08 3.81e-01
C09 N08 N09 6.78e-07
R09 N08 N09 9.23e-02
L10 N09 N10 6.14e-11
R10 N09 N10 1.63e-01
C11 N10 N11 1.93e-08
L11 N10 N11 2.33e-11
R11 N10 N11 3.37e-02
C12 N11 Port2 1.91e-12
L12 N11 Port2 1.61e-10
R12 N11 Port2 2.04e+01
.ENDS GRM155B11E153MA61
